US08106200B2
Diborane (1.4 g) was added to a solution of 5-ethyl-2-methylpyridine (12.1 g) in toluene (50 ml) to form a 2M solution of 5-ethyl-2-methylpyridine borane. The temperature of the solution rose 4 degrees during the borane addition. The 11B NMR spectrum showed a quartet at δ=−13.3 ppm (1J(11B1H)=98 Hz). The DSC of the solution had an onset at 212° C. and an energy release of −152 J/g. The solvent was removed under vacuum from 30 ml (27.4 g) of the solution to leave a liquid product (6.4 g, 90% yield). 1H NMR indicated a trace of toluene (<0.5%) remaining.

reactant | Diborane | 1.4 g | B#B | B2
reactant | 5-ethyl-2-methylpyridine | 12.1 g | C(C)C=1C=CC(=NC1)C | C8H11N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethyl-2-methylpyridine borane | B.C(C)C=1C=CC(=NC1)C | InChI=1S/C8H11N.BH3/c1-3-8-5-4-7(2)9-6-8;/h4-6H,3H2,1-2H3;1H3
